US09255110B2
To concentrate sulfuric acid (8 mL) was added portionwise N-(4-ethyl-phenyl)-acetamide (2.0 g, 12.27 mmol) and the mixture was cooled to −15° C., fuming nitric acid (0.505 mL, 12.27 mmol) was then added dropwise. The reaction mixture was stirred at a temperature ranging between −20 and −10° C. for 75 minutes. The reaction mixture was then poured into ice, neutralized by addition of sodium carbonate and extracted twice with diethyl ether. The combined organic extracts were dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The crude residue was purified by flash chromatography (hexane/EtOAc, 100/0 to 70/30) to give 2.231 g (88% yield) of N-(4-ethyl-3-nitro-phenyl)-acetamide.

reactant | N-(4-ethyl-phenyl)-acetamide | 12.27 mmol, 2.0 g | C(C)C1=CC=C(C=C1)NC(C)=O | C10H13NO
reactant | nitric acid | 12.27 mmol, 0.505 mL | [N+](=O)(O)[O-] | HNO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | N-(4-ethyl-3-nitro-phenyl)-acetamide | 2.231 g, 88% yield | C(C)C1=C(C=C(C=C1)NC(C)=O)[N+](=O)[O-] | C10H12N2O3
